US04447441
A solution of trans-6-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]hex-5-enenitrile (400 mg.) in concentrated sulphuric acid (2 ml.) was kept at 20° for 18 hours then added dropwise to saturated aqueous sodium carbonate. The mixture was extracted with EtOAc (2×15 ml.) and the extract dried (MgSO4) and evaporated in vacuo to give trans-6-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]hex-5-enamide as an oil. The maleic acid salt was prepared in acetone (yield 205 mg; 36%), m.p. 177°-179°.

reactant | trans-6-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]hex-5-enenitrile | 400 mg | FC(CN=C(NC1=NC(=NC=C1)/C=C/CCCC#N)N)(F)F | C13H15F3N6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | trans-6-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]hex-5-enamide | FC(CN=C(NC1=NC(=NC=C1)/C=C/CCCC(=O)N)N)(F)F | C13H17F3N6O
